### PR TITLE
feat(ForMathlib): spherical Hecke operators on automorphic forms, and automorphic eigenforms

### PR DESCRIPTION
**Pull request by bwangpj**
Co-authored-by: @zachary-feng 
Co-authored-by: Claude Code

Builds the spherical Hecke theory for `GL n / ℚ` on top of the Borel–Jacquet automorphic
forms of #5368, ending in the definition of an **automorphic eigenform**, which are required for the Langlands conjecture statements (in an upcoming PR). 

Four files forming a linear dependency chain.

## `Hecke/HeckePair.lean` — Hecke pairs and their operators

A *Hecke pair* is a subgroup `K ≤ G` commensurable with all its conjugates
(`Subgroup.IsHeckePair`). The key theorem, `finite_image_mk`: each double coset `K g K` is a
*finite* union of left cosets — stated in exactly the form the FLT project's abstract Hecke
operators take as a hypothesis, and derived here from commensurability. On top,
`Representation.heckeOperator`: the operator of `K g K` on the `K`-invariants of any
representation, summing translates over the cosets (Shimura's coset-counting definition; no
topology or Haar measure).

## `Hecke/GeneralLinearGroup.lean` — the arithmetic Hecke pairs

Principal congruence subgroups and their finite index, then the main theorem:
`GL n R ≤ GL n F` is a Hecke pair whenever the domain `R` has finite residue rings, by
clearing denominators and conjugating a congruence subgroup into `GL n R`. Both instances the
sequel needs are proved: the classical `GL n ℤ ≤ GL n ℚ`, and `GL n ℤ_[p] ≤ GL n ℚ_[p]` via
finiteness of the residue rings of a DVR.

## `Hecke/Satake.lean` — spherical Hecke operators and Satake parameters

First, prerequisite-free eigenvalue combinatorics: the Hecke polynomial
`∑ (-1)^i p^(i.choose 2) aᵢ X^(n-i)` of an eigensystem (also over any ring,
`heckePolynomialOver`, so it can transport along `ℚ̄ → ℚ̄_p` later), its roots as the
**Satake parameters** — a multiset of `n` nonzero complex numbers, i.e. a semisimple
conjugacy class in the dual group `GL n ℂ` — and the functorial transfers on parameters:
tensor product, symmetric powers (binary and the general `Sym`-indexed
`symPowTransferFamily`, well defined on unordered parameters), exterior powers. Then the
operators: `T (ϖ, i)` at the double cosets of `diag (ϖ, …, ϖ, 1, …, 1)`, spherical
eigenvectors, automatic normalisation `a 0 = 1`, and their `n` Satake parameters.

## `Hecke/AdelicAction.lean` — the local-to-global layer

The group homomorphism `GL n K_v →* GL n 𝔸ᶠ` placing a local matrix at one place (not
induced by any ring map `K_v → 𝔸ᶠ`; multiplicative because the off-`v` components are
identity matrices), specialised to `GL n ℚ_[p] →* GL n 𝔸ᶠ[ℤ, ℚ]` via Mathlib's
`Padic.adicCompletionEquiv`. Pulling right translation back along it makes the spherical
Hecke algebra at `p` act on automorphic forms: `IsUnramifiedAt` (fixed by the image of
`GL n ℤ_[p]`) and the operators `adelicHeckeT p i` on the unramified forms — with no Hecke
pair needed inside `GL n 𝔸ᶠ` itself.

## `AutomorphicForm/Eigenform.lean` — automorphic eigenforms

`IsAutomorphicEigenform`: a Borel–Jacquet automorphic form which, at all but finitely many
primes, is unramified and a simultaneous eigenvector of all `T_{p,i}` — a deliberately ad hoc
definition at the level of a single form (no automorphic representations, admissibility, or
multiplicity one), retaining exactly the data needed to state Langlands functoriality and
reciprocity on Satake parameters. The eigensystem at each prime is unique
(`HasHeckeEigensystemAt.unique`), normalised (`a 0 = 1`), and has exactly `m` Satake
parameters. Everything works for all `m`, including `m = 0`.

### CODE REVIEW

**Comment by bwangpj** [comment]
@kbuzzard Hi Kevin, would you mind taking a look? Thank you

File: FormalConjecturesForMathlib/NumberTheory/AutomorphicForm/Eigenform.lean [hunk 1]
```diff
@@ -0,0 +1,114 @@
...
+An **automorphic eigenform** for `GL m / ℚ`: an automorphic form in the sense of
+Borel-Jacquet which, for all but finitely many primes `p`, is unramified at `p` and a
+simultaneous eigenvector of the spherical Hecke operators `T_{p,i}` for all `i`.
+
+This is a deliberately ad hoc definition, made at the level of a single form rather than of
+an automorphic representation: no multiplicity one, no decomposition into local components,
+and no admissibility enter. What it retains is exactly the data needed to state Langlands
+functoriality for general linear groups on Satake parameters: at each unramified prime the
+eigensystem `a : Fin (m + 1) → ℂ`, unique for a given form (`HasHeckeEigensystemAt.unique`),
+whose Hecke polynomial has the `m` Satake parameters as roots.
```
Comment (kbuzzard) [inline FormalConjecturesForMathlib/NumberTheory/AutomorphicForm/Eigenform.lean:34]:
```suggestion
This is an ad hoc definition which avoids having to develop the theory of automorphic
representations. An unramified principal series representation at a finite place is
completely determined by the corresponding system of Hecke eigenvalues, so
working with Hecke eigenforms rather than automorphic representations loses no information
at the good primes. Information at the good primes is already enough to state, in the
weakest possible form, profound conjectures of Langlands on functoriality and
reciprocity. These conjectures even in this weak form, are still hopelessly out of
reach in general, although progress has been made in special cases.
```

The current docstring reads like it was written by AI.

File: FormalConjecturesForMathlib/NumberTheory/Hecke/HeckePair.lean [hunk 2]
```diff
@@ -0,0 +1,265 @@
...
+conjugates. This is exactly the condition under which the double cosets `K \ G / K` act on
+the `K`-invariants of any representation of `G`: for a Hecke pair each double coset `K g K`
+is a *finite* union of left cosets `x K`, so the operator summing a representation over those
+cosets is well defined. No topology and no Haar measure are involved: the operators are
+defined by counting cosets, following Shimura, rather than by integrating against a Haar
+measure on a locally profinite group.
+
+The motivating example is `G = GL n F` for `F` a nonarchimedean local field and
+`K = GL n 𝒪` its maximal compact; there the resulting operators generate the spherical Hecke
+algebra whose Satake parameters describe unramified representations.
```
Comment (kbuzzard) [inline FormalConjecturesForMathlib/NumberTheory/Hecke/HeckePair.lean:39]:
```suggestion
algebra, a commutative ring whose characters describe unramified representations via
the theory of Satake parameters.
```

File: FormalConjecturesForMathlib/NumberTheory/Hecke/HeckePair.lean [hunk 3]
```diff
@@ -0,0 +1,265 @@
...
+open scoped Pointwise
+
+/-! ### Hecke pairs, and the finiteness of their double cosets -/
+
+namespace Subgroup
+
+variable {G : Type*} [Group G]
+
+/-- `K` is a **Hecke subgroup** of `G` when every conjugate of `K` is commensurable with `K`;
+equivalently, when the commensurator of `K` is all of `G`.
```
Comment (kbuzzard) [inline FormalConjecturesForMathlib/NumberTheory/Hecke/HeckePair.lean:77]:
```suggestion
A pair consisting of a group `G` and a subgroup `K` is a **Hecke pair** if
every conjugate of `K` is commensurable with `K`; equivalently, if the commensurator
of `K` is all of `G`.
```
I don't think you should define "Hecke subgroup" but then go on about "Hecke pairs".

File: FormalConjecturesForMathlib/NumberTheory/Hecke/HeckePair.lean [hunk 4]
```diff
@@ -0,0 +1,265 @@
...
+def IsHeckePair (K : Subgroup G) : Prop :=
+  Commensurable.commensurator K = ⊤
+
+theorem isHeckePair_iff {K : Subgroup G} :
+    IsHeckePair K ↔ ∀ g : G, Commensurable (ConjAct.toConjAct g • K) K := by
+  simp [IsHeckePair, Subgroup.eq_top_iff']
+
+alias ⟨IsHeckePair.commensurable, isHeckePair_of_commensurable⟩ := isHeckePair_iff
+
+/-- To check that `K` is a Hecke subgroup it is enough to bound one of the two relative
```
Comment (kbuzzard) [inline FormalConjecturesForMathlib/NumberTheory/Hecke/HeckePair.lean:90]: Should be "to check that (G,K) is a Hecke pair" -- basically either use `IsHeckeSubgroup` and talk about Hecke subgroups, or use `IsHeckePair` and talk about Hecke pairs, but don't do both (or do both and explain the relationship).

File: FormalConjecturesForMathlib/NumberTheory/Hecke/HeckePair.lean [hunk 5]
```diff
@@ -0,0 +1,265 @@
...
+
+/-- **The finiteness underlying the Hecke algebra.** For a Hecke pair, the right coset `K g`
+meets only finitely many left cosets of `K`; equivalently `K g K` is a finite union of left
+cosets.
+
+This is stated in the form in which the FLT project's `AbstractHeckeOperator.heckeOperator`
+takes it as a hypothesis, so that for a Hecke pair that hypothesis is always available. -/
+theorem finite_image_mk (hK : IsHeckePair K) (g : G) :
+    ((QuotientGroup.mk : G → G ⧸ K) '' ((K : Set G) * {g})).Finite := by
+  have himg := image_mk_eq_orbit (K := K) g
```
Comment (kbuzzard) [inline FormalConjecturesForMathlib/NumberTheory/Hecke/HeckePair.lean:144]: Delete this `have himg` and just `rw [image_mk_eq_orbit]` on line 150, there's no need to clog up the infoview.

File: FormalConjecturesForMathlib/NumberTheory/Hecke/HeckePair.lean [hunk 6]
```diff
@@ -0,0 +1,265 @@
...
+  have hfi : (MulAction.stabilizer K (QuotientGroup.mk g : G ⧸ K)).FiniteIndex := by
```
Comment (kbuzzard) [inline FormalConjecturesForMathlib/NumberTheory/Hecke/HeckePair.lean:145]:
```suggestion
  have : (MulAction.stabilizer K (QuotientGroup.mk g : G ⧸ K)).FiniteIndex := by
```
Doesn't need to be named, is only used implicitly.

File: FormalConjecturesForMathlib/NumberTheory/Hecke/HeckePair.lean [hunk 7]
```diff
@@ -0,0 +1,265 @@
...
+theorem mem_subgroupInvariants {v : V} :
+    v ∈ ρ.subgroupInvariants K ↔ ∀ k ∈ K, ρ k v = v :=
+  ⟨fun h k hk => h ⟨k, hk⟩, fun h k => h k k.2⟩
+
+/-- A `K`-invariant vector may be translated by a coset representative: `ρ x v` depends only on
+`x K`. This is the function on `G ⧸ K` that the Hecke operator sums. -/
+noncomputable def translateOn (v : ρ.subgroupInvariants K) : G ⧸ K → V :=
+  Quotient.lift (fun x : G => ρ x (v : V)) <| by
+    intro a b hab
+    have hK : a⁻¹ * b ∈ K := by simpa [QuotientGroup.leftRel_apply] using hab
```
Comment (kbuzzard) [inline FormalConjecturesForMathlib/NumberTheory/Hecke/HeckePair.lean:187]:
```suggestion
    have hK : a⁻¹ * b ∈ K := QuotientGroup.leftRel_apply.mp hab
```
Don't need to enter tactic mode.

File: FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean [hunk 8]
```diff
@@ -0,0 +1,344 @@
...
+public import Mathlib.LinearAlgebra.Matrix.GeneralLinearGroup.Defs
+public import Mathlib.NumberTheory.Padics.RingHoms
+public import Mathlib.RingTheory.DiscreteValuationRing.Basic
+public import Mathlib.RingTheory.Ideal.Quotient.Operations
+public import Mathlib.RingTheory.Localization.Integer
+
+@[expose] public section
+
+/-!
+# `GL n` of an integral domain is a Hecke subgroup of `GL n` of its fraction field
```
Comment (kbuzzard) [inline FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean:29]: Again we have Hecke subgroup. Should you be defining `IsHeckeSubgroup` instead of `IsHeckePair`? Maybe we should just switch to `IsHeckeSubgroup` throughout this PR?

File: FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean [hunk 9]
```diff
@@ -0,0 +1,344 @@
...
+
+open scoped Pointwise
+
+namespace Matrix.GeneralLinearGroup
+
+variable {n : Type*} [Fintype n] [DecidableEq n] {R : Type*} [CommRing R]
+
+/-- The **principal congruence subgroup** of level `I`: the matrices in `GL n R` congruent to
+the identity modulo `I`. -/
+def congruenceSubgroup (I : Ideal R) : Subgroup (GL n R) :=
```
Comment (kbuzzard) [inline FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean:65]: Isn't this a "principal congruence subgroup"? And a "congruence subgroup" for SL_n(Z)  is one which contains a principal congruence subgroup for some I=(n) with n nonzero (and I'm not sure what one is for SL_n(R) for general R)

File: FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean [hunk 10]
```diff
@@ -0,0 +1,344 @@
...
+    simpa [Matrix.GeneralLinearGroup.map_apply, Matrix.one_apply, apply_ite,
+      ← Ideal.Quotient.mk_eq_mk_iff_sub_mem, Ideal.Quotient.eq_zero_iff_mem] using this
+  · intro h
+    ext i j
+    have := h i j
+    rw [← Ideal.Quotient.mk_eq_mk_iff_sub_mem] at this
+    simpa [Matrix.GeneralLinearGroup.map_apply, Matrix.one_apply, apply_ite] using this
+
+/-- The principal congruence subgroup has finite index when the residue ring is finite. -/
+instance finiteIndex_congruenceSubgroup (I : Ideal R) [Finite (R ⧸ I)] :
```
Comment (kbuzzard) [inline FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean:84]: We don't normally explicitly name instances, and when we do we often call them `instSomething` (which is what it will end up called if you don't name it explicitly).

File: FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean [hunk 11]
```diff
@@ -0,0 +1,344 @@
...
+    (congruenceSubgroup (n := n) I).FiniteIndex := by
+  have : Finite (GL n (R ⧸ I)) := inferInstance
+  have : Finite (GL n R ⧸ congruenceSubgroup (n := n) I) :=
+    Finite.of_injective _ (QuotientGroup.kerLift_injective
+      (Matrix.GeneralLinearGroup.map (Ideal.Quotient.mk I)))
+  exact ⟨Subgroup.index_ne_zero_of_finite⟩
+
+/-! ### A concrete instance
+
+The classical principal congruence subgroup `Γ(N) ≤ GL n ℤ` has finite index. This is the
```
Comment (kbuzzard) [inline FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean:94]: I don't think this is the classical principal congruence subgroup -- I think the classical principal congruence subgroup is a subgroup of SL_n(Z). For example if I=(2) then you still pick up matrices with determinant -1, which is probably contrary to the literature. I am not sure this example is adding much, and it might be confusing.

File: FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean [hunk 12]
```diff
@@ -0,0 +1,344 @@
...
+    (congruenceSubgroup (n := Fin 2) (Ideal.span {(N : ℤ)})).FiniteIndex := by
+  have : Finite (ℤ ⧸ Ideal.span {(N : ℤ)}) :=
+    Finite.of_equiv _ (Int.quotientSpanNatEquivZMod N).symm.toEquiv
+  infer_instance
+
+section Integral
+
+variable {S : Type*} [CommRing S]
+
+theorem map_injective {f : R →+* S} (hf : Function.Injective f) :
```
Comment (kbuzzard) [inline FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean:107]: This shouldn't really be in this file I guess. Well, I'd certainly say this for a mathlib PR -- I don't know how this repo is run though.

File: FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean [hunk 13]
```diff
@@ -0,0 +1,344 @@
...
+  ext i j
+  have h2 := congrArg (fun u : GL n S => (u : Matrix n n S) i j) hgh
+  simp only [Matrix.GeneralLinearGroup.map_apply] at h2
+  exact hf h2
+
+variable (n R)
+variable (F : Type*) [Field F] [Algebra R F]
+
+/-- `GL n R` viewed inside `GL n F`. -/
+def integralSubgroup : Subgroup (GL n F) :=
```
Comment (kbuzzard) [inline FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean:119]: Why `Field F` for this definition? That assumption should come later.

File: FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean [hunk 14]
```diff
@@ -0,0 +1,344 @@
...
+theorem one : HasIntegralEntries (R := R) (1 : Matrix n n F) := fun i j => by
+  rw [Matrix.one_apply]
+  split <;> simp
+
+end HasIntegralEntries
+
+/-- A matrix over `F` which is integral and has integral inverse comes from `GL n R`. -/
+theorem mem_integralSubgroup_of_integral {g : GL n F}
+    (hinj : Function.Injective (algebraMap R F))
+    (hg : HasIntegralEntries (R := R) (g : Matrix n n F))
```
Comment (kbuzzard) [inline FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean:158]: All this (R := R) stuff indicates that R should be explicit in `HasIntegralEntries`.

File: FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean [hunk 15]
```diff
@@ -0,0 +1,344 @@
...
+    exact g.inv_mul
+  refine ⟨⟨Matrix.of M, Matrix.of N, h1, h2⟩, ?_⟩
+  ext i j
+  simpa [Matrix.GeneralLinearGroup.map_apply] using hM i j
+
+section Denominators
+
+variable [IsDomain R] [IsFractionRing R F]
+
+/-- Clearing denominators: some nonzero `a : R` makes both `g` and `g⁻¹` integral. -/
```
Comment (kbuzzard) [inline FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean:187]: This theorem docstring is useless. People will see this if they hover and it explains nothing.

File: FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean [hunk 16]
```diff
@@ -0,0 +1,344 @@
...
+    exact ⟨r, by simpa using hr⟩
+  · have h := hb (Sum.inr (i, j))
+    obtain ⟨r, hr⟩ := h
+    exact ⟨r, by simpa using hr⟩
+
+omit [IsDomain R] [IsFractionRing R F] in
+/-- The key computation: if `a` clears the denominators of `g` and `g⁻¹`, then conjugation by
+`g` carries the congruence subgroup of level `a ^ 2` into the integral matrices. Writing
+`k = 1 + a ^ 2 * m`, the conjugate is `1 + (a * g) * m * (a * g⁻¹)`, in which every factor is
+integral. -/
```
Comment (kbuzzard) [inline FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean:207]: This is also useless. it is a comment, not a docstring.

File: FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean [hunk 17]
```diff
@@ -0,0 +1,344 @@
...
+theorem hasIntegralEntries_conj {a : R} {g : GL n F}
+    (hg : HasIntegralEntries (R := R) (a • (g : Matrix n n F)))
```
Comment (kbuzzard) [inline FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean:209]: You could have made the submonoid of integral matrices in GL_n(F) and then just have a smul g \in the submonoid, rather than having to coerce to matrices.

File: FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean [hunk 18]
```diff
@@ -0,0 +1,344 @@
...
+  have hdvd := Subgroup.index_dvd_of_le hle
+  have hne : (congruenceSubgroup (n := n) (Ideal.span {a * a})).index ≠ 0 :=
+    Subgroup.FiniteIndex.index_ne_zero
+  have hcomap : (H.comap (e : GL n R →* ↥(integralSubgroup n R F))).index = H.index :=
+    Subgroup.index_comap_of_surjective _ e.surjective
+  rw [Subgroup.relIndex, ← hH, ← hcomap]
+  intro hzero
+  exact hne (Nat.eq_zero_of_zero_dvd (hzero ▸ hdvd))
+
+/-- The classical Hecke pair: `GL n ℤ` inside `GL n ℚ`. -/
```
Comment (kbuzzard) [inline FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean:296]: Is it? I thought it was SL_n(Z) inside GL_n^+(Q).

File: FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean [hunk 19]
```diff
@@ -0,0 +1,344 @@
...
+theorem finite_quotient_span_singleton {a : ℤ_[p]} (ha : a ≠ 0) :
+    Finite (ℤ_[p] ⧸ Ideal.span {a}) := by
+  obtain ⟨n, hn⟩ := IsDiscreteValuationRing.associated_pow_irreducible ha
+    (PadicInt.irreducible_p (p := p))
+  have hspan : Ideal.span {a} = Ideal.span {(p : ℤ_[p]) ^ n} :=
+    Ideal.span_singleton_eq_span_singleton.mpr hn
+  have : NeZero (p ^ n) := ⟨pow_ne_zero n (Nat.Prime.ne_zero Fact.out)⟩
+  rw [hspan, ← PadicInt.ker_toZModPow n]
+  exact Finite.of_equiv _ (RingHom.quotientKerEquivOfSurjective
+    (ZMod.ringHom_surjective (PadicInt.toZModPow n))).symm.toEquiv
```
Comment (kbuzzard) [inline FormalConjecturesForMathlib/NumberTheory/Hecke/GeneralLinearGroup.lean:330]: Vast amounts of this file have got nothing to do with Hecke subgroups and I'm wondering if they should go elsewhere. But as I say I don't really know how this repo is organized. If this were FLT I would be telling people to think about where such theorems would go in mathlib, (say Mathlib.X.Y) and put them in the appropriate FLT/Mathlib/ directory (ie. FLT/Mathlib/X/Y.lean). These finiteness results should, in my mind, not go anywhere where you have to import something with the word Hecke in. But perhaps this repo is more lenient -- not sure.

File: FormalConjecturesForMathlib/NumberTheory/Hecke/Satake.lean [hunk 20]
```diff
@@ -0,0 +1,478 @@
...
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+module
+
+public import FormalConjecturesForMathlib.NumberTheory.Hecke.GeneralLinearGroup
+public import FormalConjecturesForMathlib.NumberTheory.Hecke.HeckePair
```
Comment (kbuzzard) [inline FormalConjecturesForMathlib/NumberTheory/Hecke/Satake.lean:19]: Hecke.GeneralLinearGroup imports Hecke.HeckePair so surely you don't need this import.
